US07259266B2
Step 1: Preparation of ethyl 6-chloro-7-(phenoxymethyl)-2-(trifluoromethyl)-2H-chromene-3-carboxylate
A solution of phenol (117 mg, 0.69 mmol) in 1 mL DMF was added to a mixture of NaH (30 mg, 0.75 mmol) in 1 mL DMF at 0° C. under argon. After 30 min, a solution of ethyl 7-(bromomethyl)-6-chloro-2-(trifluoromethyl)-2H-chromene-3-carboxylate (250 mg, 0.62 mmol) in 2 mL DMF described in Example 157 Step 3 was added dropwise. The reaction was warmed to 25° C. After 18 h, the reaction was filtered through a pad of Celite (1″) and washed with EtOAc (20 mL). The filtrate was concentrated to give a pale yellow solid in 230 mg.

reactant | phenol | 0.69 mmol, 117 mg | C1(=CC=CC=C1)O | C6H6O
reactant | NaH | 0.75 mmol, 30 mg | [H-].[Na+]
reactant | ethyl 7-(bromomethyl)-6-chloro-2-(trifluoromethyl)-2H-chromene-3-carboxylate | 0.62 mmol, 250 mg | BrCC1=C(C=C2C=C(C(OC2=C1)C(F)(F)F)C(=O)OCC)Cl | C14H11BrClF3O3
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | ethyl 6-chloro-7-(phenoxymethyl)-2-(trifluoromethyl)-2H-chromene-3-carboxylate | ClC=1C=C2C=C(C(OC2=CC1COC1=CC=CC=C1)C(F)(F)F)C(=O)OCC | C20H16ClF3O4
